### PR TITLE
feat: ne_nil equivalence for take and drop

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F

File: Std/Data/List/Lemmas.lean [hunk 1]
```diff
@@ -1763,6 +1763,25 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
...
+  List.drop_eq_nil_of_le <| h ▸ List.length_nil ▸ zero_le i
+
+theorem take_eq_nil_of_eq_nil.{u} {α : Type u} {as : List α} {i : Nat}
+    (h: as = []) : as.take i = []  :=
+  List.eq_nil_iff_forall_not_mem.mpr (fun a ha =>
+  List.eq_nil_iff_forall_not_mem.mp h a (List.mem_of_mem_take ha))
+
+theorem ne_nil_of_drop_ne_nil.{u} {α : Type u} {as : List α} {i : Nat}
+    (h: as.drop i ≠ []) : as ≠ [] :=
+    Exists.casesOn (List.exists_mem_of_ne_nil (List.drop i as) h) fun _ ha =>
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:1777]: Simpler proof: `mt drop_eq_nil_of_eq_nil h`

Same for the next theorem.

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Std/Data/List/Lemmas.lean [hunk 2]
```diff
@@ -1763,6 +1763,25 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
       refine ⟨fun h => h₀ _ (mem_of_mem_drop h) rfl, ?_⟩
       exact disjoint_take_drop h₁ (Nat.le_of_succ_le_succ h)
 
+theorem drop_eq_nil_of_eq_nil.{u} {α : Type u} {as : List α} {i : Nat}
+    (h: as = []) : as.drop i = []  :=
```
[the remark this answers is not in the document]
Comment (mo271) [reply Std/Data/List/Lemmas.lean]: done

File: Std/Data/List/Lemmas.lean (hunk 1 above)
Comment (mo271) [reply Std/Data/List/Lemmas.lean]: done

File: Std/Data/List/Lemmas.lean [hunk 3]
```diff
@@ -1763,6 +1763,19 @@ theorem disjoint_take_drop : ∀ {l : List α}, l.Nodup → m ≤ n → Disjoint
       refine ⟨fun h => h₀ _ (mem_of_mem_drop h) rfl, ?_⟩
       exact disjoint_take_drop h₁ (Nat.le_of_succ_le_succ h)
 
+theorem drop_eq_nil_of_eq_nil {as : List α} {i : Nat} (h: as = []) : as.drop i = [] :=
+  List.drop_eq_nil_of_le <| h ▸ List.length_nil ▸ zero_le i
```
Comment (fgdorais) [inline Std/Data/List/Lemmas.lean:1767]: Simpler still:
```lean
theorem drop_eq_nil_of_eq_nil : ∀ {as : List α} {i}, as = [] → as.drop i = []
  | _, _, rfl => drop_nil
```
Same could be done for `take_eq_nil_of_eq_nil` after adding the missing `take_nil` lemma.

**Review by fgdorais — CHANGES_REQUESTED** [review]
Please move to take and drop section that starts on line 693.

File: Std/Data/List/Lemmas.lean (hunk 3 above)
Comment (mo271) [reply Std/Data/List/Lemmas.lean]: Great! I also like the other golf with `bt`.
I added the `take_nil` lemma and was about to open a pr, but then I read the [contribution guidelines](https://github.com/leanprover/lean4/blob/c268d7e97bb075427a8412cceecc4e483379ac25/CONTRIBUTING.md)
and now I'm not sure if I should ask on zulip first. I think it will probably take 1minute of the reviewers time, but still.. What do you think?

https://github.com/mo271/lean4/commit/05273e9eed5f3680f5e2f199506b76f3764d256f

Comment (mo271) [reply Std/Data/List/Lemmas.lean]: [Converting to draft, since the current way would depend on the propsed `take_nil` lemma.

Comment (fgdorais) [reply Std/Data/List/Lemmas.lean]: Those are guidelines for lean4 core not for std4! Just add `take_nil` in this PR and it should be fine.

Comment (mo271) [reply Std/Data/List/Lemmas.lean]: Yes, I just thought it would be nice to have `take_nil` in the same place as `drop_nil`, but I guess we can also put it in std4...

Comment (mo271) [reply Std/Data/List/Lemmas.lean]: Added `take_nil` as suggested.

Comment (fgdorais) [reply Std/Data/List/Lemmas.lean]: Adding things to core that aren't actually needed in core is a no-go... Who knows, maybe `drop_nil` will eventually be moved to std4!

**Review by fgdorais — APPROVED** [review]

**Review by JamesGallicchio — APPROVED** [review]

**Review by fpvandoorn — APPROVED** [review]
